US08633173B2
(1-Ethyl-1H-pyrazol-4-yl)-[8-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-amine was prepared from 2-chloro-8-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1.5-a]pyridine (0.125 g, 0.406 mmol) and 1-ethyl-1H-pyrazol-4-ylamine (0.058 g, 0.52 mmol) with 2,2-bis-dicyclohexylphosphanyl-biphenyl (0.048 g, 0.088 mmol) as the ligand in a manner analogous to Example 2d. Product was isolated as a tan solid (0.09 g, 58%). MP=201-203° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.37 (s, 1H), 8.78 (d, J=6.48 Hz, 1H), 8.42 (d, J=8.05 Hz, 2H), 8.06 (d, J=8.09 Hz, 2H), 7.94 (d, J=7.21 Hz, 1H), 7.82 (s, 1H), 7.48 (s, 1H), 7.12 (t, J=7.08 Hz, 2H), 4.10 (q, J=7.08 Hz, 2H), 3.29 (s, 3H), 1.37 (t, J=7.16 Hz, 3H). MS=383 (MH)+.

reactant | 2-chloro-8-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1.5-a]pyridine | 0.406 mmol, 0.125 g | ClC1=NN2C(C(=CC=C2)C2=CC=C(C=C2)S(=O)(=O)C)=N1 | C13H10ClN3O2S
reactant | 1-ethyl-1H-pyrazol-4-ylamine | 0.52 mmol, 0.058 g | C(C)N1N=CC(=C1)N | C5H9N3
reactant | 2,2-bis-dicyclohexylphosphanyl-biphenyl | 0.088 mmol, 0.048 g | C1(CCCCC1)P(C1(C(=CC=CC1)C1=CC=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H54P2
product | (1-Ethyl-1H-pyrazol-4-yl)-[8-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-amine | C(C)N1N=CC(=C1)NC1=NN2C(C(=CC=C2)C2=CC=C(C=C2)S(=O)(=O)C)=N1 | C18H18N6O2S
